US05264578
Ethyl 3-(4-bromophenylthio)propionate (Compound 23)
To a solution of 10.4 g (55.2 mmol) of 4-bromothiophenol and 6.49 g (55.4 mmol of ethyl acrylate in 5 mL of dichloromethane was added 4.13 g (41 mmol) of triethylamine at 0 ° C. under argon. The resulting solution was warmed to room temperature and stirred for 12 hours. The solution was then treated with 50 mL 10% aqueous NaOH and the product extracted into 3×100 mL ether.

reactant | 4-bromothiophenol | 55.2 mmol, 10.4 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | ethyl acrylate | 55.4 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 41 mmol, 4.13 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Ethyl 3-(4-bromophenylthio)propionate | BrC1=CC=C(C=C1)SCCC(=O)OCC | C11H13BrO2S
